*$
* LMV841
*************************************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*************************************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*************************************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*************************************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: LMV841
* Date: 01FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SNOSAT1I –OCTOBER 2006–REVISED OCTOBER 2017
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* VOS drift feature is added 
* Added Unique subckt name, removed Claw ABS. 
* Simplified subckt for current noise.
*
* Final 1.0 
* Release to Web.
*
****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos) 
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt LMV841 IN+ IN- VCC VEE OUT
******************************************************
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
V4          ZO_OUT_J1 OUT 0
I_OS        ESDn MID 260F
I_B         32 MID 300F
V_GRp       47 MID 20
V_GRn       48 MID -20
V_ISCp      41 MID 28
V_ISCn      42 MID -28
V_ORn       40 VCLP -2.6
V11         46 39 0
V_ORp       38 VCLP 2.6
V12         45 37 0
VCM_MIN     66 VEE_B -200M
VCM_MAX     67 VCC_B 200M
I_Q         VCC VEE 1.03M
XV_OS       74 32 VOS_DRIFT_LMV841
XU1 Zo_Cleft CL_CLAMP Zo_Cright MID ZO_OUT_J1 AOL_INN_J1 AOL_INP_J1 CLAMP CLAW_CLAMP VSENSE AOL_ZO_0_LMV841 
XU6         VEE VCC ESDn ESDp ESD_0_LMV841
R47         26 VCLP R_NOISELESS 100 
C24         VCLP MID 100P  
E4          26 MID CL_CLAMP MID  1
H1          27 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_1
S6          OUT VCC OUT VCC  S_VSWITCH_2
R11         MID 28 R_NOISELESS 1T 
R18         28 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N  
E5          28 MID OUT MID  1
C13         VIMON MID 1N  
R33         27 VIMON R_NOISELESS 100 
R10         MID 27 R_NOISELESS 1T 
S1          Zo_Cleft Zo_Cright SW_OL MID  S_VSWITCH_3
XU4         OUT_J1_29 ESDp MID PSRR_CMRR_0_LMV841
XU3         OUT_J1_30 VEE_B MID PSRR_CMRR_1_LMV841
XU2         OUT_J1 VCC_B MID PSRR_CMRR_2_LMV841
C28         33 MID 1P  
R77         34 33 R_NOISELESS 100 
C27         35 MID 1P  
R76         36 35 R_NOISELESS 100 
R75         MID 37 R_NOISELESS 1 
GVCCS8      37 MID 38 MID  -1
R74         39 MID R_NOISELESS 1 
GVCCS7      39 MID 40 MID  -1
Xi_nn       ESDn MID FEMT_0_LMV841
Xi_np       MID 32 FEMT_0_LMV841
Xe_n        ESDp 32 VNSE_0_LMV841
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_LMV841
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_LMV841
C_DIFF      ESDp ESDn 3P  
XCL_AMP     41 42 VIMON MID 43 44 CLAMP_AMP_LO_0_LMV841
SOR_SWp     CLAMP 45 CLAMP 45  S_VSWITCH_4
SOR_SWn     46 CLAMP 46 CLAMP  S_VSWITCH_5
XGR_AMP     47 48 49 MID 50 51 CLAMP_AMP_HI_0_LMV841
R39         47 MID R_NOISELESS 1T 
R37         48 MID R_NOISELESS 1T 
R42         VSENSE 49 R_NOISELESS 1M 
C19         49 MID 1F  
R38         50 MID R_NOISELESS 1 
R36         MID 51 R_NOISELESS 1 
R40         50 52 R_NOISELESS 1M 
R41         51 53 R_NOISELESS 1M 
C17         52 MID 1F  
C18         MID 53 1F  
XGR_SRC     52 53 CLAMP MID VCCS_LIM_GR_0_LMV841
R21         43 MID R_NOISELESS 1 
R20         MID 44 R_NOISELESS 1 
R29         43 54 R_NOISELESS 1M 
R30         44 55 R_NOISELESS 1M 
C9          54 MID 1F  
C8          MID 55 1F  
XCL_SRC     54 55 CL_CLAMP MID VCCS_LIM_4_0_LMV841
R22         41 MID R_NOISELESS 1T 
R19         MID 42 R_NOISELESS 1T 
XCLAWp      VIMON MID 56 VCC_B VCCS_LIM_CLAW+_0_LMV841
XCLAWn      MID VIMON VEE_B 57 VCCS_LIM_CLAW-_0_LMV841
R12         56 VCC_B R_NOISELESS 1K 
R16         56 58 R_NOISELESS 1M 
R13         VEE_B 57 R_NOISELESS 1K 
R17         59 57 R_NOISELESS 1M 
C6          59 MID 1F  
C5          MID 58 1F  
G2          VCC_CLP MID 58 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 59 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 60 61 CLAMP_AMP_LO_0_LMV841
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         60 MID R_NOISELESS 1 
R24         MID 61 R_NOISELESS 1 
R27         60 62 R_NOISELESS 1M 
R28         61 63 R_NOISELESS 1M 
C11         62 MID 1F  
C10         MID 63 1F  
XCLAW_SRC   62 63 CLAW_CLAMP MID VCCS_LIM_3_0_LMV841
H2          36 MID V11 -1
H3          34 MID V12 1
C12         SW_OL MID 100P  
R32         64 SW_OL R_NOISELESS 100 
R31         64 MID R_NOISELESS 1 
XOL_SENSE   MID 64 35 33 OL_SENSE_0_LMV841
C4          AOL_INP_J1 MID 1F  
R9          AOL_INP_J1 65 R_NOISELESS 1M 
R7          MID 66 R_NOISELESS 1T 
R6          67 MID R_NOISELESS 1T 
R8          MID 65 R_NOISELESS 1 
XVCM_CLAMP  68 MID 65 MID 67 66 VCCS_EXT_LIM_0_LMV841
E1          MID 0 69 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          70 VEE_B R_NOISELESS 1M 
C3          70 0 1F  
R60         69 70 R_NOISELESS 1MEG 
C1          69 0 1  
R3          69 0 R_NOISELESS 1T 
R59         71 69 R_NOISELESS 1MEG 
C2          71 0 1F  
R4          VCC_B 71 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       72 68 R_NOISELESS 1K 
G_PSR       68 72 OUT_J1 OUT_J1_30  -1M
R2          AOL_INN_J1 ESDn R_NOISELESS 1M 
R1          72 73 R_NOISELESS 1M 
R_CMR       74 73 R_NOISELESS 1K 
G_CMR       73 74 OUT_J1_29 MID  -1M
C_CMn       ESDn MID 3P  
C_CMp       MID ESDp 3P  
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_4 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
.ENDS LMV841
*
.SUBCKT VOS_DRIFT_LMV841 VOS+ VOS-
.PARAM DC = 16.115E-06
.PARAM POL = 1
.PARAM DRIFT = 0.25E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.SUBCKT AOL_ZO_0_LMV841 ZO_CLEFT CL_CLAMP ZO_CRIGHT MID ZO_OUT AOL_INN AOL_INP CLAMP 
+ CLAW_CLAMP VSENSE 
C2_A5       75 MID 2.58305F  
R3_A5       MID 75 R_NOISELESS 1MEG 
GVCCS3_A5   75 MID 76 MID  -1U
C2_A4       76 MID 1.58305F  
R3_A4       MID 76 R_NOISELESS 1MEG 
GVCCS3_A4   76 MID 77 MID  -1U
R4_CL       MID CL_CLAMP R_NOISELESS 1K 
GVCCS4_CL   CL_CLAMP MID CLAW_CLAMP MID  -1M
R4_CC       MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS4_CC   CLAW_CLAMP MID 75 MID  -1M
R4_VS       MID VSENSE R_NOISELESS 1K 
GVCCS4_VS   VSENSE MID CLAMP MID  -1M
C2_A3       77 MID 1.1305F  
R3_A3       MID 77 R_NOISELESS 1MEG 
GVCCS3_A3   77 MID 78 MID  -1U
C2_A2       78 MID 4.947F  
R3_A2       MID 78 R_NOISELESS 1MEG 
GVCCS3_A2   78 MID VSENSE MID  -1U
C1_A0       CLAMP MID 223.4N  
R4_A0       MID CLAMP R_NOISELESS 1MEG 
XVCCS_LIM_2 79 MID MID CLAMP VCCS_LIM_2_0_LMV841
R3_A0       MID 79 R_NOISELESS 1MEG 
XVCCS_LIM_1 AOL_INP AOL_INN MID 79 VCCS_LIM_1_0_LMV841
Rdummy      MID ZO_OUT R_NOISELESS 1.5849K 
XVCCS_LIM_ZO 80 MID MID 81 VCCS_LIM_ZO_0_LMV841
R11_5       80 MID R_NOISELESS 333.3M 
C4_5        80 82 1.592P  
R10_5       80 82 R_NOISELESS 10K 
R1_5        82 MID R_NOISELESS 1 
R4_4        83 84 R_NOISELESS 9.8K 
R5_4        83 85 R_NOISELESS 10K 
C2_4        85 MID 8.038P  
GVCCS2_4    82 MID 83 MID  -1
R7_4        84 MID R_NOISELESS 1 
R4_3        86 87 R_NOISELESS 9.579K 
R5_3        86 88 R_NOISELESS 10K 
C2_3        88 MID 8.557P  
GVCCS2_3    84 MID 86 MID  -1
R7_3        87 MID R_NOISELESS 1 
R4_2        89 90 R_NOISELESS 120.7K 
R5_2        89 91 R_NOISELESS 10K 
C2_2        91 MID 10.61P  
GVCCS2_2    87 MID 89 MID  -1
R7_2        90 MID R_NOISELESS 1 
R9_5        81 MID R_NOISELESS 1 
GVCCS1_1    90 MID ZO_CRIGHT MID  -2.308
C1_1        ZO_CLEFT ZO_CRIGHT 24.49U  
R2_1        ZO_CRIGHT MID R_NOISELESS 7.647K 
R1_1        ZO_CRIGHT ZO_CLEFT R_NOISELESS 10K 
Rx          ZO_OUT 81 R_NOISELESS 15.849K 
Rdc_1       ZO_CLEFT MID R_NOISELESS 1 
G_Aol_Zo    ZO_CLEFT MID CL_CLAMP ZO_OUT  -1.572279K
.model R_NOISELESS RES(T_ABS=-273.15)
.ENDS
*
.SUBCKT ESD_0_LMV841 VEE VCC ESDn ESDp
S6          ESDp ESDn ESDp ESDn  S_VSWITCH_1
S7          ESDn ESDp ESDn ESDp  S_VSWITCH_2
S3          ESDp VCC ESDp VCC  S_VSWITCH_3
S5          VEE ESDp VEE ESDp  S_VSWITCH_4
S4          VEE ESDn VEE ESDn  S_VSWITCH_5
S2          ESDn VCC ESDn VCC  S_VSWITCH_6
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=600M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=600M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_5 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_6 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.ENDS
*
.SUBCKT PSRR_CMRR_0_LMV841 OUT IN MID
R78         MID 92 R_NOISELESS 1 
GVCCS8      92 MID IN MID  -935.3M
R79         92 OUT R_NOISELESS 100MEG 
C27         OUT 92 8.8665P  
R80         MID OUT R_NOISELESS 239.4
.model R_NOISELESS RES(T_ABS=-273.15) 
.ENDS
*
.SUBCKT PSRR_CMRR_1_LMV841 OUT IN MID
R78         MID 93 R_NOISELESS 1 
GVCCS8      93 MID IN MID  -943.04M
R79         93 OUT R_NOISELESS 100MEG 
C27         OUT 93 110.74P  
R80         MID OUT R_NOISELESS 359.3133
.model R_NOISELESS RES(T_ABS=-273.15) 
.ENDS
*
.SUBCKT PSRR_CMRR_2_LMV841 OUT IN MID
G_2         OUT MID 94 MID  -126.6667
R74         MID OUT R_NOISELESS 1 
R2a         MID 95 R_NOISELESS 47.3908694K 
C1a         95 96 884.19F  
R48         96 95 R_NOISELESS 100MEG 
G_1         96 MID IN MID  -7.1534M
Rsrc        MID 96 R_NOISELESS 1 
R2b         MID 94 R_NOISELESS 795.7559682K 
C2a         94 97 53.052F  
R73         97 94 R_NOISELESS 100MEG 
GVCCS7      97 MID 95 MID  -1
R49         MID 97 R_NOISELESS 1
.model R_NOISELESS RES(T_ABS=-273.15)
.ENDS
*
.SUBCKT FEMT_0_LMV841   1 2
.PARAM NVRF=1
.PARAM RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10 
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ENDS
*
.SUBCKT VNSE_0_LMV841   1 2
.PARAM FLW=10
.PARAM NLF=85.8
.PARAM NVR=13.95
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*
.SUBCKT VCCS_LIMIT_IQ_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*
.SUBCKT CLAMP_AMP_LO_0_LMV841  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*
.SUBCKT CLAMP_AMP_HI_0_LMV841  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*
.SUBCKT VCCS_LIM_GR_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 2
.PARAM INEG = -2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_4_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.9
.PARAM INEG = -0.9
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_CLAW+_0_LMV841  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 46.66e-06)
+(9.2283, 0.00017984)
+(18.4567, 0.00028598)
+(24.6089, 0.00037542)
+(24.9165, 0.00038055)
+(25.5317, 0.00040295)
+(26.1469, 0.00042502)
+(26.7622, 0.00045071)
+(27.3774, 0.00048017)
+(27.685, 0.00049673)
.ENDS
*
.SUBCKT VCCS_LIM_CLAW-_0_LMV841  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 54.68e-06)
+(9.1667, 0.00020332)
+(18.3333, 0.00030743)
+(24.4444, 0.00039273)
+(24.75, 0.00040048)
+(25.3611, 0.00041635)
+(25.9722, 0.00044044)
+(26.5833, 0.00046836)
+(27.1944, 0.00058889)
+(27.5, 0.00065)
.ENDS
*
.SUBCKT VCCS_LIM_3_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.45
.PARAM INEG = -0.45
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT OL_SENSE_0_LMV841  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*
.SUBCKT VCCS_EXT_LIM_0_LMV841  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*
.SUBCKT VCCS_LIM_2_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.063096
.PARAM IPOS = 0.5585
.PARAM INEG = -0.5585
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_1_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_ZO_0_LMV841  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 3E4
.PARAM IPOS = 1000
.PARAM INEG = -1000
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
